US08729105B2
Preparation of 5-Benzo[1,2,5]oxadiazol-5-yl-6-(2,2,2-trifluoro-ethoxy)-N-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl-methyl)-nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-benzo[1,2,5]oxadiazol-5-yl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (example CH) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; MS (ESI) 489.2 (M+H)+.

reactant | 5-benzo[1,2,5]oxadiazol-5-yl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | N1=C2C(=NO1)C=C(C=C2)C=2C(=NC=C(C(=O)O)C2)OCC(F)(F)F | C14H8F3N3O4
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-Benzo[1,2,5]oxadiazol-5-yl-6-(2,2,2-trifluoro-ethoxy)-N-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl-methyl)-nicotinamide | N1=C2C(=NO1)C=C(C=C2)C=2C(=NC=C(C(=O)NCC1=NC(=NO1)C(F)(F)F)C2)OCC(F)(F)F | C18H10F6N6O4
